US07354932B2
Preparation of 2-{4-[(5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1.3-dione
To a solution of the above crude aldehyde (180 mg, 0.97 mmol) and 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindol-1,3-dione (372 mg, 1.06 mmol) in CH2Cl2 (10 mL) was added sodium triacetoxyborohydride (410 mg, 1.93 mmol). The reaction mixture was stirred at room temperature for 3 days. Then the solvent was removed under reduced pressure to afford a yellow oil. Purification by flash column chromatography on silica gel using 2% CH3OH/CH2Cl2 afforded the product as a yellow oil (135 mg, 27%). 1H NMR (CDCl3) δ 1.42-1.47 (m, 2H), 1.56-1.63 (m, 2H), 1.93-1.96 (m, 2H), 2.06-2.07 (m, 2H), 2.22 (t, 2H, J=6.0 Hz), 2.60-2.67 (m, 3H), 2.70 (m, 1H), 2.95 (t, 2H, J=6.0 Hz), 3.56 (t, 2H, J=6.0 Hz), 4.01 (t, 1H, J=6.0 Hz), 4.16 (ABq, 2H, J=42.0, 15.0 Hz), 4.29-4.35 (m, 1H), 4.51 (br s, 1H), 4.58-4.66 (m, 1H), 6.94 (d, 1H, J=7.2 Hz), 7.01-7.06 (m, 1H), 7.09 (t, 1H, J=8.1 Hz), 7.29 (d, 1H, J=7.5 Hz), 7.47 (d, 1H, J=8.1 Hz), 7.68-7.70 (m, 2H), 7.78-7.81 (m, 2H), 8.41 (d, 1H, J=3.9 Hz).

reactant | 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindol-1,3-dione | 1.06 mmol, 372 mg | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | sodium triacetoxyborohydride | 1.93 mmol, 410 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[(5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1.3-dione | 135 mg, 27% | N1=C(N2CCCC3=CC=CC1=C23)CN(CCCCN2C(C3=CC=CC=C3C2=O)=O)C2CCCC=3C=CC=NC23 | C32H33N5O2
